US06013658
Dry tetrahydrofuran (250 ml) was cooled to -78° C. Potassium tert-butoxide (6.37 g; 56.72 mmol) was dissolved in dry tetrahydrofuran (100 ml) and added. (Benzhydrylideneamino)acetic acid methyl ester (14.35 g; 56.72 mmol) was added and the reaction mixture was stirred 30 min at -78° C. Benzoyl chloride (6.59 g; 56.72 mmol) was added dropwise and the reaction mixture was stirred 30 min at -78° C. Hydrochloric acid (1.0 M; 175 ml) was added dropwise. The reaction mixture was heated to room temperature and 2/3 of the solvent was removed in vacuo. Water (700 ml) was added and the reaction mixture was washed with diethyl ether (400 ml). The aqueous phase was evaporated in vacuo and the residue was dissolved in methanol and evaporated (2×150 ml). Methanol (80 ml) was added. The mixture was filtrated and the filtrate was evaporated in vacuo. The residue was recrystallised from tetrahydrofuran/diethyl ether to afford 8.86 g of 2-amino-3-oxo-3-phenylpropionic acid methylester as a hydrochloride.

reactant | Potassium tert-butoxide | 56.72 mmol, 6.37 g | CC(C)([O-])C.[K+]
reactant | (Benzhydrylideneamino)acetic acid methyl ester | 56.72 mmol, 14.35 g | COC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H15NO2
reactant | Benzoyl chloride | 56.72 mmol, 6.59 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Hydrochloric acid | 1.0 M, 175 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-amino-3-oxo-3-phenylpropionic acid methylester | 8.86 g | COC(C(C(C1=CC=CC=C1)=O)N)=O | C10H11NO3
